US06960614B2
Trifluoroacetic acid (3.0 mL, 39 mmol) was added to a 0° C. solution of [2-({1-[3,4-difluoro-2-(4-iodo-2-methyl-phenylamino)-phenyl]-methanoyl}-aminooxy)-ethyl]-methyl-carbamic acid tert-butyl ester (0.75 g, 1.3 mmol) in dichlormethane (12 mL). The resultant solution was stirred 2.5 h at 0° C. and diluted with ether (50 mL). Water (20 mL) was added and, with vigorous stirring, the pH of the aqueous layer was adjusted to pH 8 with saturated aqueous sodium bicarbonate. The heterogeneous mixture was stirred 30 min and the precipitate was removed by filtration and washed with water-ethanol (2:1) and acetone. The solid (471 mg) was dried overnight in vacuo and was further triturated with hot methanol and dried at 70° C. under reduced pressure to afford 3,4-difluoro-2-(4-iodo-2-methyl-phenylamino)-N-(2-methylamino-ethoxy)-benzamide (272 mg) as a white powder: m.p. 183-185 (dec); 1H NMR (400 MHz, DMSO-d6) δ 10.33 (s, 1H), 7.69 (t, J=7.0 Hz, 1H), 7.46 (d, J=1.7 Hz, 1H), 7.33 (dd, J=8.6, 2.0 Hz, 1H), 6.95 (app q, J=9.0 Hz, 1H), 6.40 (t, J=7.8 Hz, 1H),3.87(br t, J=4.4 Hz, 2H), 2.82 (br s, 2H), 2.47 (s, 3H), 2.24 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ −137.7 (d, J=7.6 Hz), −143.3 (d, J=20.2 Hz). Anal Calcd./Found for C17H18F2IN3O2+0.07 C4H10O: C, 44.50/44.61; H, 4.01/3.97; N, 9.01/8.72.

reactant | Trifluoroacetic acid | 39 mmol, 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [2-({1-[3,4-difluoro-2-(4-iodo-2-methyl-phenylamino)-phenyl]-methanoyl}-aminooxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 1.3 mmol, 0.75 g | C(C)(C)(C)OC(N(C)CCONC(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)C)=O | C22H26F2IN3O4
reactant | Water | 20 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichlormethane | 12 mL | ClCCl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 3,4-difluoro-2-(4-iodo-2-methyl-phenylamino)-N-(2-methylamino-ethoxy)-benzamide | 272 mg | FC=1C(=C(C(=O)NOCCNC)C=CC1F)NC1=C(C=C(C=C1)I)C | C17H18F2IN3O2
